US09085576B2
A solution of (E)-7-benzylidene-3-bromo-6,7-dihydro-5H-cyclopenta[b]pyridine (1.61 g, 5.63 mmol) in MeOH (75 mL) and DCM (75 mL) was cooled to −78° C. and a stream of ozone in oxygen was bubbled through the solution for 10 min until the solution turned light blue. Oxygen was pass through the solution for 10 min until the solution turned colorless. Triphenylphosphine (3.63 g, 13.8 mmol) was added and the reaction mixture was allowed to warm to room temperature. The reaction mixture was stirred at room temperature for 1.5 h and then concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (80 g, 30% to 70% EtOAc in heptane) to give 3-bromo-5H-cyclopenta[b]pyridin-7(6H)-one (1.14 g, 5.38 mmol, 96% yield) as a yellow solid. MS m/z=211.9 [M+H]+. Calculated for C8H6BrNO 211.0.

reactant | (E)-7-benzylidene-3-bromo-6,7-dihydro-5H-cyclopenta[b]pyridine | 5.63 mmol, 1.61 g | C(/C1=CC=CC=C1)=C\1/CCC=2C1=NC=C(C2)Br | C15H12BrN
reactant | Triphenylphosphine | 13.8 mmol, 3.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | MeOH | 75 mL | CO | CH4O
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5H-cyclopenta[b]pyridin-7(6H)-one | 5.38 mmol, 1.14 g, 96% yield | BrC=1C=C2C(=NC1)C(CC2)=O | C8H6BrNO
